US05977141
(S)-3-Phenyl-2-[4-(4-phenyl-piperazin-1-yl)-benzene-sulfonylamino]-propionic acid
In a manner similar to Example 3(b), (S)-2-(4-fluoro-benzenesulfonylamino)-propionic acid, sodium salt and 4-phenyl-piperazine were condensed to give the title compound as a beige solid, mp=192-193° C.

reactant | (S)-2-(4-fluoro-benzenesulfonylamino)-propionic acid | FC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)O)C | C9H10FNO4S
reactant | sodium | [Na] | Na
reactant | 4-phenyl-piperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
product | (S)-3-Phenyl-2-[4-(4-phenyl-piperazin-1-yl)-benzene-sulfonylamino]-propionic acid | C1(=CC=CC=C1)C[C@@H](C(=O)O)NS(=O)(=O)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=CC=C1 | C25H27N3O4S
